US06743776B2
To a solution of 4-phenylbenzoic acid (10.0 g), 1-hydroxybenzotriazole (7.5 g) and thiosemicarbazide (5.1 g) in dimethylformamide (50 ml) was added 1-ethyl-3-(3′-dimethylaminopropyl) carbodiimide hydrochloride (14.45 g) and stirred for 12 hours at ambient temperature. The reaction mixture was pulverized with water. The precipitate was collected by filtration and dried under reduced pressure to give 1-(4-phenylbenzoyl)-3-thiosemicarbazide (10.274 g).

reactant | 4-phenylbenzoic acid | 10.0 g | C1(=CC=CC=C1)C1=CC=C(C(=O)O)C=C1 | C13H10O2
reactant | 1-hydroxybenzotriazole | 7.5 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | thiosemicarbazide | 5.1 g | NNC(=S)N | CH5N3S
reactant | 1-ethyl-3-(3′-dimethylaminopropyl) carbodiimide hydrochloride | 14.45 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-(4-phenylbenzoyl)-3-thiosemicarbazide | 10.274 g | C1(=CC=CC=C1)C1=CC=C(C(=O)NNC(=S)N)C=C1 | C14H13N3OS
